US04845118
1-Hydroxymethyl-2-(4-methoxy-2-picolylmercapto)1H-thieno[3,4-d]imidazole
Under a nitrogen atmosphere, 0.7 ml of 37% strength aqueous formaldehyde solution in 3 ml of acetonitrile was added dropwise to 1.6 g (5.8 mmol) of 2-(4methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole dissolved in 50 of acetonitrile. The mixture was then stirred at 70° C. for 15 minutes. The solution was concentrated in vacuo, washed with water and saturated aqueous NaCl solution and dried over MgSO4. The residue obtained after evaporation resulted, after treatment with diisopropyl ether, in a semicrystalline crude product which crystallized from ethyl acetate. Melting point 125°-127° C.

reactant | formaldehyde | C=O | CH2O
reactant | 2-(4methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 5.8 mmol, 1.6 g | COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | C12H11N3OS2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-Hydroxymethyl-2-(4-methoxy-2-picolylmercapto)1H-thieno[3,4-d]imidazole | OCN1C(=NC=2C1=CSC2)SCC2=NC=CC(=C2)OC | C13H13N3O2S2
